* Z:\home\eric\Documents\MADVLSI\Imager\diffamp.asc
M2 N001 Vb Vdd Vdd pfet l=1.2u w=6u
M3 N001 Vb Vdd Vdd pfet l=1.2u w=6u
M7 N003 N003 0 0 nfet l=1.2u w=6u
M8 N003 N003 0 0 nfet l=1.2u w=6u
M9 Vout N003 0 0 nfet l=1.2u w=6u
M10 Vout N003 0 0 nfet l=1.2u w=6u
M21 N003 Vin N001 Vdd pfet l=1.2u w=6u
M4 N003 Vin N001 Vdd pfet l=1.2u w=6u
M5 Vout Vout N001 Vdd pfet l=1.2u w=6u
M6 Vout Vout N001 Vdd pfet l=1.2u w=6u
M1 N002 Vb Vdd Vdd pfet l=1.2u w=6u
M11 N002 Vb Vdd Vdd pfet l=1.2u w=6u
M12 N004 N004 0 0 nfet l=1.2u w=6u
M13 N004 N004 0 0 nfet l=1.2u w=6u
M14 Vout N004 0 0 nfet l=1.2u w=6u
M15 Vout N004 0 0 nfet l=1.2u w=6u
M16 N004 Vin N002 Vdd pfet l=1.2u w=6u
M17 N004 Vin N002 Vdd pfet l=1.2u w=6u
M18 Vout Vout N002 Vdd pfet l=1.2u w=6u
M19 Vout Vout N002 Vdd pfet l=1.2u w=6u
.backanno
.end
