* Z:\home\eric\Documents\MADVLSI\Project\pixel.asc
XU1 POS N002 N003 nmos3 W=.9u L=.6u ad=10.8p as=10.8p pd=7.2u ps=7.2u
XU4 N003 RS P001 nmos3 W=.9u L=.6u ad=10.8p as=10.8p pd=7.2u ps=7.2u
V1 POS 0 5
V2 Reset 0 PULSE(0 5 .1p .1n .1n 10u 20u 10)
V3 Shutter 0 PULSE(0 5 10u .1n .1n 5u 20u 10)
V4 RS 0 PULSE(0 5 15.5u .1n .1n 3u 20u 10)
I1 N001 0 20n
C1 P001 0 20p
XU2 POS Reset N001 nmos3 W=0.9u L=0.6u ad=10.8p as=508p pd=7.2u ps=350u
XU3 N002 Shutter N001 nmos3 W=0.9u L=0.6u ad=10.8p as=10.8p pd=7.2u ps=7.2u
.include engr3426.sub
.tran 0 200u 0
.backanno
.end
