* Z:\home\eric\Documents\MADVLSI\Imager\pixel_lvs.asc
M1 Vdd Reset N001 0 nfet l=0.6u w=0.9u
M2 N011 Reset Vdd 0 nfet l=0.6u w=0.9u
M3 N011 Shutter N012 0 nfet l=0.6u w=0.9u
M4 N009 N012 Vdd 0 nfet l=0.6u w=0.9u
M5 N007 RS1 N009 0 nfet l=0.6u w=0.9u
M6 N005 RS1 N007 0 nfet l=0.6u w=0.9u
M7 Vdd N002 N005 0 nfet l=0.6u w=0.9u
M8 N002 Shutter N001 0 nfet l=0.6u w=0.9u
M9 N015 N015 N017 0 nfet l=0.6u w=0.9u
M10 N015 Vbp Vdd Vdd pfet
M11 N007 Vbn 0 0 nfet l=0.6u w=0.9u
M12 N015 col1 out 0 nfet l=0.6u w=0.9u
M13 N017 Vdd N007 0 nfet l=0.6u w=0.9u
M14 N007 Vbn 0 0 nfet l=0.6u w=0.9u
M15 Vdd Reset N004 0 nfet l=0.6u w=0.9u
M16 N014 Reset Vdd 0 nfet l=0.6u w=0.9u
M17 N014 Shutter N013 0 nfet l=0.6u w=0.9u
M18 N010 N013 Vdd 0 nfet l=0.6u w=0.9u
M19 N008 RS2 N010 0 nfet l=0.6u w=0.9u
M20 N006 RS2 N008 0 nfet l=0.6u w=0.9u
M21 Vdd N003 N006 0 nfet l=0.6u w=0.9u
M22 N003 Shutter N004 0 nfet l=0.6u w=0.9u
M23 N016 N016 N018 0 nfet l=0.6u w=0.9u
M24 N016 Vbp Vdd Vdd pfet
M25 N008 Vbn 0 0 nfet l=0.6u w=0.9u
M26 N016 col2 out 0 nfet l=0.6u w=0.9u
M27 N018 Vdd N008 0 nfet l=0.6u w=0.9u
M28 N008 Vbn 0 0 nfet l=0.6u w=0.9u
.backanno
.end
