* Z:\home\eric\Documents\MADVLSI\Project\test.asc
XU1 P001 vdd
V1 P001 0 5
XU2 N001 N001 N002 nmos3
I1 N002 0 10µ
I2 P002 N001 5µ
XU3 P002 vdd
C1 N001 0 10p
.include engr3426.sub
.tran 2u
.backanno
.end
