* Z:\home\eric\Documents\MADVLSI\Imager\pixel_lvs.asc
MXU2 N015 Vbp Vdd Vdd pfet W=0.9u L=0.6u
MXU3 Vdd Reset N001 0 nfet W=0.9u L=0.6u
MXU4 N002 Shutter N001 0 nfet W=0.9u L=0.6u
MXU5 Vdd N002 N005 0 nfet W=0.9u L=0.6u
MXU6 N005 RS N007 0 nfet W=0.9u L=0.6u
MXU7 N007 RS2 N009 0 nfet W=0.9u L=0.6u
MXU8 N012 Shutter N011 0 nfet W=0.9u L=0.6u
MXU9 N011 Reset Vdd 0 nfet W=0.9u L=0.6u
MXU10 N009 N012 Vdd 0 nfet W=0.9u L=0.6u
MXU11 N015 col1 out 0 nfet W=0.9u L=0.6u
MXU12 N015 N015 N017 0 nfet W=0.9u L=0.6u
MXU13 N017 Vdd N007 0 nfet W=0.9u L=0.6u
MXU14 N007 Vbn 0 0 nfet W=0.9u L=0.6u
MXU15 N007 Vbn 0 0 nfet W=0.9u L=0.6u
MXU1 N016 Vbp Vdd Vdd pfet W=0.9u L=0.6u
MXU16 Vdd Reset N004 0 nfet W=0.9u L=0.6u
MXU17 N003 Shutter N004 0 nfet W=0.9u L=0.6u
MXU18 Vdd N003 N006 0 nfet W=0.9u L=0.6u
MXU19 N006 RS N008 0 nfet W=0.9u L=0.6u
MXU20 N008 RS2 N010 0 nfet W=0.9u L=0.6u
MXU21 N013 Shutter N014 0 nfet W=0.9u L=0.6u
MXU22 N014 Reset Vdd 0 nfet W=0.9u L=0.6u
MXU23 N010 N013 Vdd 0 nfet W=0.9u L=0.6u
MXU24 N016 col2 out 0 nfet W=0.9u L=0.6u
MXU25 N016 N016 N018 0 nfet W=0.9u L=0.6u
MXU26 N018 Vdd N008 0 nfet W=0.9u L=0.6u
MXU27 N008 Vbn 0 0 nfet W=0.9u L=0.6u
MXU28 N008 Vbn 0 0 nfet W=0.9u L=0.6u
.backanno
.end
