* Z:\home\eric\Documents\MADVLSI\Imager\pixel_lvs.asc
XU2 N015 Vbp Vdd pmos3 W=0.9u L=0.6u
XU3 Vdd Reset N001 nmos3 W=0.9u L=0.6u
XU4 N002 Shutter N001 nmos3 W=0.9u L=0.6u
XU5 Vdd N002 N005 nmos3 W=0.9u L=0.6u
XU6 N005 RS N007 nmos3 W=0.9u L=0.6u
XU7 N007 RS2 N009 nmos3 W=0.9u L=0.6u
XU8 N012 Shutter N011 nmos3 W=0.9u L=0.6u
XU9 N011 Reset Vdd nmos3 W=0.9u L=0.6u
XU10 N009 N012 Vdd nmos3 W=0.9u L=0.6u
XU11 N015 col1 out nmos3 W=0.9u L=0.6u
XU12 N015 N015 N017 nmos3 W=0.9u L=0.6u
XU13 N017 Vdd N007 nmos3 W=0.9u L=0.6u
XU14 N007 Vbn 0 nmos3 W=0.9u L=0.6u
XU15 N007 Vbn 0 nmos3 W=0.9u L=0.6u
XU1 N016 Vbp Vdd pmos3 W=0.9u L=0.6u
XU16 Vdd Reset N004 nmos3 W=0.9u L=0.6u
XU17 N003 Shutter N004 nmos3 W=0.9u L=0.6u
XU18 Vdd N003 N006 nmos3 W=0.9u L=0.6u
XU19 N006 RS N008 nmos3 W=0.9u L=0.6u
XU20 N008 RS2 N010 nmos3 W=0.9u L=0.6u
XU21 N013 Shutter N014 nmos3 W=0.9u L=0.6u
XU22 N014 Reset Vdd nmos3 W=0.9u L=0.6u
XU23 N010 N013 Vdd nmos3 W=0.9u L=0.6u
XU24 N016 col2 out nmos3 W=0.9u L=0.6u
XU25 N016 N016 N018 nmos3 W=0.9u L=0.6u
XU26 N018 Vdd N008 nmos3 W=0.9u L=0.6u
XU27 N008 Vbn 0 nmos3 W=0.9u L=0.6u
XU28 N008 Vbn 0 nmos3 W=0.9u L=0.6u
.backanno
.end
